US05874424
(3S)-3-(1-Fluorenylmethyloxycarbonylamino)-4-oxobutyric acid tert-butyl ester semicarbazone (210 mg, 0.45 mol, Prepared in a similar manner to the benzyloxycarbonyl analog in Graybill et al., Int. J. Protein Res., 44, pp. 173-82 (1994).) was dissolved in 10 ml of DMF and 2 ml of diethylamine and stirred for 2 h. The reaction was concentrated in vacuo to give (3S)-3-amino-4-oxobutyric acid tert-butyl ester semicarbazone. The 0° C. solution of the above residue and 603a (200 mg, 0.42 mmol) in 5 ml of DMF and 5 ml of CH2Cl2 was treated with 1-hydroxybenzotriazole (57 mg, 0.42 mmol) and 1-(3-dimethylaminopropyl)-3ethylcarbodiimide hydrochloride (98 mg, 0.51 mmol). The reaction was stirred at RT for 18 h, poured onto EtOAc (75 ml) and washed with aq. 0.3N KHSO4, sat. aq. NaHCO3 and sat. aq. NaCl, dried over NaSO4 and concentrated in vacuo. Chromatography (flash, SiO2, 0% to 4% MeOH/0.1% NH4OH/CH2Cl2) to give 240 mg (83%) of 604a.

reactant | (3S)-3-(1-Fluorenylmethyloxycarbonylamino)-4-oxobutyric acid tert-butyl ester semicarbazone | C(C)(C)(C)OC(C[C@@H](C=O)NC(=O)OCC1=CC=CC=2C3=CC=CC=C3CC12)=NNC(=O)N | C24H28N4O5
reactant | diethylamine | 2 ml | C(C)NCC | C4H11N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (3S)-3-amino-4-oxobutyric acid tert-butyl ester semicarbazone | C(C)(C)(C)OC(C[C@@H](C=O)N)=NNC(=O)N | C9H18N4O3
